US06114532
c. 5-nitro-2-chloro-1-methyl-benzimidazole
2.1 g (0.01 mol) of phosphorus pentachloride are dissolved in 2.5 ml phosphorus oxychloride and after the addition of 1.9 g (0.01 mol) of 5-nitro-1-methyl-benzimidazol-2-one the mixture is stirred for two hours at 125° C. The solvent is evaporated off, the residue is poured onto ice water and neutralised with ammonia. The precipitate formed is suction filtered and dried.

reactant | phosphorus pentachloride | 0.01 mol, 2.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 5-nitro-1-methyl-benzimidazol-2-one | 0.01 mol, 1.9 g | [N+](=O)([O-])C1=CC2=C(N(C(N2)=O)C)C=C1 | C8H7N3O3
solvent | phosphorus oxychloride | 2.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-nitro-2-chloro-1-methyl-benzimidazole | [N+](=O)([O-])C1=CC2=C(N(C(=N2)Cl)C)C=C1 | C8H6ClN3O2
